US07834001B2
4-Bromo-3-(2-hydroxy-phenylsulfamoyl)-5-methyl-benzoic acid methyl ester
A solution of 2-aminophenol (2.5 g, 22.9 mmol) in dry methylene chloride (10 mL) was added to a mixture of 4-bromo-3-chlorosulfonyl-5-methyl-benzoic acid methyl ester (7.18 g, 22.9 mmol) and dry pyridine (10 mL, 124.7 mmol) in methylene chloride (40 mL). The reaction mixture was stirred for 1 h at 10° C. and at room temperature overnight. It was concentrated, treated with 10% HCl (100 mL) and extracted with 1-butanol. The organic layer was washed with water, brine, dried, concentrated, treated with methanolic HCl (60 ml) and refluxed for 3 h. The reaction mixture was concentrated, treated with 10% aqueous sodium bicarbonate solution to alkaline pH and extracted using ethyl acetate. The organic layer was washed with water, brine, dried and purified, using flash chromatography (silica gel, 10% ethyl acetate/pet ether) to obtain the title compound. Yield: 2.2 g, (24%); 1H NMR (CDCl3): δ 2.4 (s, 3H, CH3), 3.9 (s, 3H, OCH3), 6.6 (t, 1H, Ar), 6.72 (t, 1H, Ar), 6.74 (d, 1H, Ar), 7.2 (d, 1H, Ar), 7.94 (s, 1H, OH), 7.96 (s, 1H, Ar), 8.5 (s, 1H, Ar); MS: m/e (EI+) 400 (M+1).

reactant | 2-aminophenol | 22.9 mmol, 2.5 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | 4-bromo-3-chlorosulfonyl-5-methyl-benzoic acid methyl ester | 22.9 mmol, 7.18 g | COC(C1=CC(=C(C(=C1)C)Br)S(=O)(=O)Cl)=O | C9H8BrClO4S
reactant | pyridine | 124.7 mmol, 10 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-3-(2-hydroxy-phenylsulfamoyl)-5-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)C)Br)S(NC1=C(C=CC=C1)O)(=O)=O)=O | C15H14BrNO5S
